US08431538B2
2-Methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (17)
Phenyl hydrazine (1.0 g, 9.3 mmols) and 1-methyl-piperidin-4-one (1.1 g, 9.3 mmols) were dissolved in 1,4-dioxane (35 mL) and cooled to 0° C. Concentrated sulfuric acid (5 mL) was added dropwise to the reaction at 0° C. with stirring upon which a precipitate formed. The reaction was then heated to 60° C. for one hour after which the precipitate was fully dissolved. The reaction was stirred for an additional hour at 60° C. The reaction was then cooled to room temperature and the pH was adjusted to approximately 12 by the addition of saturated aqueous sodium bicarbonate solution followed by small portions of solid sodium hydroxide. The organic products were extracted with chloroform (3×20 mL) and the combined organic extracts were washed with brine (15 mL), dried (Na2SO4) and concentrated in vacuo. Purification by column chromatography (0-80% gradient of ethyl acetate in hexane) afforded the final product (1.6 g, 93% yield) as a beige solid. 1H NMR (400 MHz, DMSO): δ 10.80 (s, 1H), 7.30 (m, 2H), 6.98 (m, 2H), 3.53 (s, 2H), 2.79 (t, J=5.2 Hz, 2H), 2.71 (t, 2H, J=5.4 Hz), 2.43 (s, 3H). 13C NMR APT (100 MHz, CDCl3): δ 136.2 (up), 132.0 (up), 126.0 (up), 121.0 (down), 119.1 (down), 117.4 (down), 110.7 (down), 108.3 (up), 52.5 (up), 51.8 (up), 45.8 (down), 23.5 (up). ESI-HRMS (m/z): [M+H]+ calcd. for C12H14N2, 187.1230. found, 187.1228

reactant | Phenyl hydrazine | 9.3 mmols, 1.0 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | 1-methyl-piperidin-4-one | 9.3 mmols, 1.1 g | CN1CCC(CC1)=O | C6H11NO
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | 2-Methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.6 g, 93% yield | CN1CC2=C(NC=3C=CC=CC23)CC1 | C12H14N2
